US08202865B2
Intermediate 23: 4-(2-methoxypyridin-3-yl)-3-methyl benzoic acid
Methyl 4-bromo-3-methylbenzoate (Intermediate 17, step 1) (2 g; 8.73 mmol; 1 eq.), 2-methoxypyridin-3-ylboronic acid (1.47 g; 9.60 mmol; 1.10 eq.), K2CO3 (6.03 g; 43.65 mmol; 5 eq.), Pd(PPh3)4 (1.01 g; 0.87 mmol; 0.10 eq.) were taken up in toluene (10 mL) and water (10 mL) under N2 atmosphere. The reaction mixture was purged with vacuum, then degassed with N2 and refluxed for 24 hours. The reaction mixture was cooled to RT, filtered over a pad of celite and washed with toluene (100 mL). The filtrate was concentrated to afford a yellow oil which was taken in EtOAc (100 mL). The organic layer was washed with a saturated aqueous solution of NaHCO3 solution, water and brine, dried over MgSO4 and concentrated affording methyl 4-(2-methoxypyridin-3-yl)-3-methyl benzoate as a yellow oil (2.4 g, HPLC (Method A) Rt 4.02 min). A solution of methyl 4-(2-methoxypyridin-3-yl)-3-methylbenzoate (2.50 g; 9.72 mmol; 1 eq.) in EtOH (75 mL) at RT was treated with sodium hydroxide (5.83 mL; 5 M; 29.15 mmol; 3 eq.). The reaction mixture was stirred at 60° C. for 2 hours. The reaction mixture was concentrated to give a brown solid, which was taken up in water (50 mL) and the aqueous phase was washed twice with EtOAc. The aqueous phase was acidified with HCl cc to pH 2. Then it was concentrated (volume divided by 3) and the suspension was filtered affording the title compound as a beige solid. 1H NMR (DMSO-d6, 300 MHz) δ 12.96 (br s, 1H), 8.28-8.26 (dd, J=5.07 Hz, 1.86 Hz, 1H), 7.89 (m, 1H), 7.84-7.82 (dd, J=7.94 Hz, 1.52 Hz, 1H), 7.64-7.62 (dd, J=7.26 Hz, 1.86 Hz, 1H), 7.31-7.29 (d, J=7.94 Hz, 1H), 7.16-7.12 (m, 1H), 3.90 (s, 3H), 2.15 (s, 3H). LC/MS (Method A): 241.9 (M−H)−. HPLC (Method A) Rt 3.19 min (Purity: 99.1%).

reactant | methyl 4-(2-methoxypyridin-3-yl)-3-methylbenzoate | 9.72 mmol, 2.50 g, 1 eq. | COC1=NC=CC=C1C1=C(C=C(C(=O)OC)C=C1)C | C15H15NO3
reactant | sodium hydroxide | 29.15 mmol, 5 M, 5.83 mL, 3 eq. | [OH-].[Na+]
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
product | 4-(2-methoxypyridin-3-yl)-3-methyl benzoic acid | COC1=NC=CC=C1C1=C(C=C(C(=O)O)C=C1)C | C14H13NO3
